US07465726B2
(1-Methyl-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydro-pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride
A 4.0 M solution of HCl in 1,4-dioxane (4.7 mL; 20 eq) was added to a suspension of 4-[4-(1-methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (415.4 mg, 0.9324 mmol, 1 eq) in 1,4-dioxane (8 mL) and stirred at rt for 2 h. The solid was filtered off, washed several times with dioxane, and dried under vacuum, yielding the title compound, as a yellow solid. 1H NMR (400 MHz, DMSO-d6): δ=2.65 (s, br, 2H), 3.32 (s, br, 2H), 3.80 (s, br, 2H), 4.11 (s, 3H), 6.50 (s, 1H), 7.04 (s, br, 1H), 7.51 (dd, J=8.8, 1.6 Hz, 1H), 7.83 (d, J=9.2 Hz, 1H), 7.98 (s, 1H), 8.15 (s, 1H), 8.26 (s, 1H), 9.43 (s, br, —NH+—NH), 11.56 (s, br, —NH), 13.09 (s, H+). MS (ES+): m/z 346.16 (31) [MH+]. HPLC: tR=1.57 min (ZQ2000, polar—5 min).

reactant | HCl | Cl | ClH
reactant | 4-[4-(1-methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.9324 mmol, 415.4 mg, 1 eq | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC=2C=C3C=NN(C3=CC2)C)N1 | C24H27N7O2
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 4.7 mL, 20 eq | O1CCOCC1 | C4H8O2
product | (1-Methyl-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydro-pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride | Cl.Cl.Cl.CN1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2 | InChI=1S/C19H19N7.3ClH/c1-26-17-3-2-14(8-13(17)10-23-26)24-18-15-9-16(12-4-6-20-7-5-12)25-19(15)22-11-21-18;;;/h2-4,8-11,20H,5-7H2,1H3,(H2,21,22,24,25);3*1H
